US07034039B2
To a solution of tert-butyl[6-[amino(hydroxyimino)methyl]-4-butoxy-2-isobutyl-1-oxo-1,2-dihydro-3-isoquinolinyl]methylcarbamate (0.78 g, 1.7 mmol) in ethyl acetate (10 ml) tetrahydrofuran (10 ml) was added 1,1′-carbonyldiimidazole (0.83 g, 5.1 mmol) and the mixture was stirred at 80° C. for 2 h. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was crystallized from ethyl acetate-diisopropyl ether to give tert-butyl [4-butoxy-2-isobutyl-1-oxo-6-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)-1,2-dihydro-3-isoquinolinyl]methylcarbamate (0.54 g, 65.9%) as crystals.

reactant | tert-butyl[6-[amino(hydroxyimino)methyl]-4-butoxy-2-isobutyl-1-oxo-1,2-dihydro-3-isoquinolinyl]methylcarbamate | 1.7 mmol, 0.78 g | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1OCCCC)C(=NO)N)=O)CC(C)C)=O | C24H36N4O5
reactant | 1,1′-carbonyldiimidazole | 5.1 mmol, 0.83 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | water | O | H2O
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | tert-butyl [4-butoxy-2-isobutyl-1-oxo-6-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)-1,2-dihydro-3-isoquinolinyl]methylcarbamate | 0.54 g, 65.9% | C(CCC)OC1=C(N(C(C2=CC=C(C=C12)C1=NOC(N1)=O)=O)CC(C)C)CNC(OC(C)(C)C)=O | C25H34N4O6
